US05756507
Step 7.1B 2-[2-(5-benzyloxy-2-bromo-1H-indol-3-yl)ethyl]isoindole-1,3-dione
To a solution of 2-[2-(5-benzyloxy-1H-indol-3-yl)ethyl]isoindole-1,3-dione (800 mg in a mixture of dry 25 mL tetrahydrofuran and 25 mL dry chloroform) at 0° C. was added pyridinium hydrobromide perbromide (666 mg) and the mixture stirred at 0° C. After 23 minutes the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate. The organic portion was washed with saturated sodium bicarbonate (3×) and 0.3M sodium bisulfate (3×) then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 7:2) followed by repurification by flash chromatography on silica gel (methylene chloride) gave the title compound (632 mg).

reactant | 2-[2-(5-benzyloxy-1H-indol-3-yl)ethyl]isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C25H20N2O3
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(5-benzyloxy-2-bromo-1H-indol-3-yl)ethyl]isoindole-1,3-dione | 632 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)Br)CCN1C(C2=CC=CC=C2C1=O)=O | C25H19BrN2O3
